US09212182B2
To a solution of (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (150 g, 479 mmol, 1.0 equiv) in acetonitrile (2.0 L) was added para-toluenesulfonic acid monohydrate (273.16 g, 1437 mmol, 3.0 equiv, Spectrochem). The reaction mixture was cooled to 0° C. and a solution of sodium nitrite (66.03 g, 958 mmol, 2.0 equiv, Spectrochem) and potassium iodide (185.7 g, 1198 mmol, 2.5 equiv, Spectrochem) in water (450 mL) was added drop wise keeping temperature below 5° C. The reaction mixture was stirred at 0° C. for 5 h. The mixture was then diluted with ethyl acetate (5.0 L) and quenched with 2M aqueous sodium hyposulfite solution (5.0 L). The layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate solution (3.0 L). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain the crude material which was purified by column chromatography (silica gel; mesh size 60-120, elution 0-5% ethyl acetate in hexane) to yield ethyl-3-(5-(benzylthio)-2-iodophenyl)acrylate (130 g, 64%) as light brown solid. TLC solvent system: 20% ethyl acetate in hexane. Product's Rf: 0.6. MS (ESI, positive ion) m/z; 425.0 (M+1)

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 479 mmol, 150 g, 1.0 equiv | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | para-toluenesulfonic acid monohydrate | 1437 mmol, 273.16 g, 3.0 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium nitrite | 958 mmol, 66.03 g, 2.0 equiv | N(=O)[O-].[Na+]
reactant | potassium iodide | 1198 mmol, 185.7 g, 2.5 equiv | [I-].[K+]
solvent | acetonitrile | 2.0 L | C(C)#N | C2H3N
solvent | water | 450 mL | O | H2O
solvent | ethyl acetate | 5.0 L | C(C)(=O)OCC | C4H8O2
product | ethyl-3-(5-(benzylthio)-2-iodophenyl)acrylate | 130 g, 64% | C(C)OC(C=CC1=C(C=CC(=C1)SCC1=CC=CC=C1)I)=O | C18H17IO2S
